Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
___ weakness and dysarthria 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The ___ was performed: 
Date: ___
Time: 
(within 6 hours of patient presentation or neurology consult) 
 
___ Stroke Scale score was : 3
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0
2. Best gaze: 0
3. Visual fields: 0
4. Facial palsy: 1
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7. Limb Ataxia: 1
8. Sensory: 0
9. Language: 0
10. Dysarthria: 1
11. Extinction and Neglect: 0
 
REASON FOR CONSULTATION: ? Stroke 

HPI: 
Mr. ___ is a ___ R handed gentleman mainly
___ speaking with a past medical history of a right
superior cerebellar peduncle stroke in ___ currently on 
aspirin,
hypertension, hyperlipidemia gout, and chronic daily alcohol 
use.
He presents today at the request of his family for concerns of
___ weakness and dysarthria that was noted this morning.

Briefly, the patient was last seen normal around 11 ___ when his
family members went to sleep.  The patient continued to stay
awake until about 2 or 3 AM watching TV before he went to sleep. 

This morning, the patient's daughter entered his room to wake 
him
up at 8 AM for him to drive her to work.  This was strange as
typically the patient wakes up a little bit before 8 AM on his
own.  When she woke him up, she noted that his speech was 
slurred
but she thought it was because he was tired.  She left the room
to let him get dressed.  After the period that was longer than
usual, his daughter came back to the room and noted that he was
having difficulty buckling his belt and was having difficulty
using his right hand.  

When she came into the room she saw that his right face seemed
more droopy than usual.  When he spoke his speech was very
unintelligible and it sounded like he was drunk.  He then
proceeded to go to the bathroom without difficulty. She also
maybe noted that his L eyelid was slightly drooping but she was
unsure.  Next, they walked to the kitchen which was on the same
floor.  The patient was able to take his medications and swallow
the pills without difficulty, however when he was trying to 
close
the pill bottles he was having difficulty coordinating with his
right hand.  At this point, his daughter felt very worried that
he may have had a stroke or some other process and urged him to
let her take him to the hospital, however the patient adamantly
refused and said that he wanted to go back to sleep.  The 
patient
then went back to sleep and intermittently woke up every hour
when his daughter called to check on him.  Between 8 and 12, the
patient woke up twice and his speech was still slurred.  At 12
___, the patient woke up and it was thought that his speech was
slightly clear.  However at 1 ___, the patient was back to having
very slurred speech and his facial droop was still present as
noted by another daughter who came to check on him.  At 230pm,
when the patient woke up again he was noted to have difficulty
walking with dragging his right leg and was still dysarthric.  
At
this point, his family stated that they put him in the car and
drove him to ___ for further evaluation.

On discussion with the patient, he stated that he felt that he
was slightly off this morning and that his speech was slurred 
but
otherwise he felt well.  He denied any headaches, any neck pain
and no other systemic symptoms such as fever, chills,, or
fatigue.  The patient states that he takes his medications every
day with full compliance and his daughters also endorses this
history. 

Patient's daughters disclose that the patient has had issues 
with
drinking alcohol over many years.  After he had a stroke in ___
the patient cut alcohol out cold ___ for about a year, 
however
he relapsed and started to drink again.  These days, the patient
is drinking about 6 shots of whiskey between the hours of 5 ___
and 11:30 ___.  He has never had any withdrawal seizures,
typically does not get very drunk or have significant difficulty
functioning. 

 
On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia,  dysphagia, lightheadedness, vertigo, tinnitus
or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal numbness, parasthesiae. No
bowel or bladder incontinence or retention. 
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
 
Past Medical History:
- Alcoholism
-?liver cirrhosis, however patient unwilling to get liver u/s
with PCP 
- ___
- ___ B12 deficiency
- Hyperlipidemia
-Prior stroke in ___ thought to be atheroembolic. Takes aspirin
325mg daily. No afib detected
 
Social History:
Primary language ___, but ___ speaking
- Lives at home with wife and daughter, ___ in all ADLs
- Quit Tobacco recently, 6 shots of whiskey per day.  Denies
Illicits. Sleeps at ___ am, wakes up at ___aughter 
to
work then sleeps again until about 3pm

- Modified Rankin Scale:
[] 0: No symptoms
[X] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead
 
Family History:
- Positive for Graves Disease in Mother and Type I Diabetes in 
family, negative for any neurologic disease including stroke, 
migraine, or other issues.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T: 98.0  P: 74  R: 16  BP: 135/71 SaO2: 98% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, ___
Abdomen: soft, ___
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x self, date, location. Able to
relate history without difficulty. Attentive, able to name ___
backward without difficulty. Language is fluent with intact
repetition and comprehension in Creole. Normal prosody. There
were no paraphasic errors. Pt was able to name high frequency
objects, had difficulty withlow frequency on stroke card, likely
due to language barrier.  Able to read without difficulty. 
Speech
was moderately  dysarthric. Able to follow both midline and
appendicular commands.  There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. 
V: Facial sensation intact to light touch.
VII: very slight RNLFF , slower to activate by a small amount
compared to L 
VIII: Hearing intact to ___ bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with ___ testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
Significant postural and actin tremor in UEs L>R. No asterixis 
on
exam today. He is overall full strength but had significant
ORBITING around the R arm . 

  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___   5    5     5     5   
R  5    ___   ___   5    5     5     5   

-Sensory: No deficits to light touch,  cold sensation, vibratory
sense, proprioception throughout. No extinction to DSS. Romberg
absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   1
R  3  3    3    3   1
Plantar response was mute bilaterally.

-Coordination: bilateral intention tremor. mild R sided
dysemetria on FNF or HKS bilaterally.

-Gait: Good initiation. ___, normal stride and arm
swing.  Slightly dragging R leg. Able to walk on toes and heels. 

==========================================================

DISCHARGE PHYSICAL EXAM:
___ 1112 Temp: 98.5 PO BP: 109/72 HR: 58 RR: 20 O2
sat: 96% O2 delivery: RA 

General: NAD
HEENT: NCAT
CV: warm and ___
Pulmonary: breathing comfortably in room air
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x3, able to relate
history. Speech is fluent without paraphasic errors. No
dysarthria. 
- Cranial Nerves: ___, EOMI, VFF, No facial asymmetry,Able to
perceive sensations over face. Tongue strength full.
Neurologic Examination:

- Motor: Normal bulk and tone. Full power over all extremities.
B/L resting and action tremors noted (L>R).

-Reflexes: Brisk and symmetrical throughout.
Plantar response :Flexor ___

-Sensory: Able to perceive touch, pain and temperature
throughout. Normal Proprioception

-___: Able to do FTF with some dysmetria and active
action tremor B/L and HKS B/L .

-Gait: Normal stride and initiation. No staggering noted.
 
Pertinent Results:
LABS:
___ 04:42PM BLOOD ___ 
___ Plt ___
___ 04:42PM BLOOD ___ 
___ Im ___ 
___
___ 05:15AM BLOOD ___ ___
___ 04:42PM BLOOD ___ 
___
___ 04:42PM BLOOD ___
___ 04:42PM BLOOD cTropnT-<0.01
___ 04:42PM BLOOD ___
___ 04:42PM BLOOD ___
___ 05:15AM BLOOD ___
___ 04:42PM BLOOD ___
___ 06:15PM BLOOD ___ 
___
___ 04:48PM BLOOD ___

IMAGING:
CXR ___:
Subtle right base opacity may represent atelectasis, subtle 
aspiration or
infection is not entirely excluded.

CTA HEAD AND NECK ___:
1. Subacute infarct centered in the left caudate head and left 
putamen.
2. No evidence of hemorrhage.
3. Mild global parenchymal volume loss and evidence of chronic 
small vessel ischemic disease.
4. Multifocal paranasal sinus disease.
5. Stenosis of the distal right vertebral artery with no 
intracranial flow demonstrated.
6. Otherwise patent intracranial and cervical vasculature.

MRI BRAIN WITHOUT CONTRAST ___:
1. Early subacute infarction with hemorrhage involving the left 
caudate head, left putamen, and surrounding structures.
2. Irregular narrowing of the left M1 segment vascular flow 
void, better characterized on recent CT examination.
3. Background global parenchymal volume loss and evidence of 
chronic small vessel ischemic disease.
4. Multifocal paranasal sinus disease, as detailed above.
 
Brief Hospital Course:
Mr. ___ is a ___ R handed gentleman from 
___ who presented with R facial droop, R sided mild 
weakness in arm and leg and dysarthria noted about 8 AM on 
___ after last known well time was 11pm the night before. 
Initial exam was notable for very subtle signs of weakness with 
slower activation to smile on the R, orbiting around the R arm, 
and dragging his R leg when walking. He also has some slight 
dysmetria on the R which may be new or part of his prior stroke 
in the R cerebellar peduncle. His exam improved with full 
strength throughout with no facial asymmetry and active 
intentional tremors and slight dysmetria R>L on FNF tests. On 
MRI, patient had early subacute infarction involving the left 
caudate head, left putamen, and surrounding structures with a 
small amount of hemorrhagic component. A CTA head and neck 
showed the distal right vertebral artery with no intracranial 
flow demonstrated but was otherwise unremarkable. He was started 
on aspirin 81mg. Telemetry revealed afib, which was diagnosed 
previously, but patient was ___ with warfarin. 
Apixaban was recommended, but patient's ___ was too high and 
therefore, warfarin was once again recommended for stroke 
prophylaxis. Etiology of the stroke thought to be cardioembolic 
from afib not on anticoagulation. Other risk factors checked: 
A1c 5.8. LDL 63. 

He will continue on aspirin until PCP ___ next week, at 
which point he should start warfarin. 

Transitional Issues 
-Initiate warfarin. PCP to ___ INR checks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. FoLIC Acid 1 mg PO DAILY 
5. Hydrochlorothiazide 12.5 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Aspirin 325 mg PO DAILY 
8. Cyanocobalamin 1000 mcg PO DAILY 
9. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
___ will continue this until ___ start warfarin.  
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Allopurinol ___ mg PO DAILY  
3.  Atenolol 50 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Cyanocobalamin 1000 mcg PO DAILY  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Hydrochlorothiazide 12.5 mg PO DAILY  
8.  Omeprazole 20 mg PO DAILY  
9.  Thiamine 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left caudate/putamen ischemic stroke with hemorrhagic conversion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

___ were hospitalized due to symptoms of right sided weakness 
and difficulty speaking resulting from an ACUTE ISCHEMIC STROKE 
a condition where a blood vessel providing oxygen and nutrients 
to the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms. There was also a small 
amount of bleeding associated with the stroke. 

Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  

- high blood pressure
- Chronic alcohol intake
- abnormal heart rhythm (afib)

We are changing your medications as follows:  
-continue on aspirin 81mg until ___ with your PCP
-___ will be started on warfarin, a blood thinning medication 
after discussion with your PCP

___ will need your blood levels checked to make sure your blood 
is thin enough to prevent stroke. 

It is very important for ___ to stop drinking alcohol.  

Please take your other medications as prescribed.  

Please follow up with Neurology and your primary care physician 
as listed below.  

If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  

Your ___ Neurology Team  

 
Followup Instructions:
___